US06034099
From the reaction of 4-chlorphenylhydrazine and ethylacetoacetate, 2-(4-chlorphenyl)-2,4-dihydro-5-methyl-3H-pyrazol-3-one is obtained. Subsequent reaction with 2-ethylaniline yields 2-(4chlorphenyl)-4-(2-ethylanilinomethylene)-2,4-dihydro-5-methyl-3H-pyrazol-3-one

reactant | 4-chlorphenylhydrazine | ClC1=CC=C(C=C1)NN | C6H7ClN2
reactant | ethylacetoacetate | C(C)OC(CC(=O)C)=O | C6H10O3
product | 2-(4-chlorphenyl)-2,4-dihydro-5-methyl-3H-pyrazol-3-one | ClC1=CC=C(C=C1)N1N=C(CC1=O)C | C10H9ClN2O
